US05594010
(S)-N-(1-Ethoxycarbonyl-2-methyl-prop-1-yl)-N-(6-bromopyridin-3-ylmethyl)-amine
A solution of 4.77 g (25.65 mmol) of 6-bromo-3-pyridinecarboxaldehyde, 4.66 g (25.65 mmol) of L-valine ethyl ester hydrochloride and 4.24 g (51.3 mmol) of sodium acetate in 400 ml of methanol is stirred for 30 min together with 25 g of 4A molecular sieve. After adding 3.22 g (51.3 mmol) of sodium cyanoborohydride, the mixture is stirred at room temperature overnight, adjusted to pH=2 with dilute hydrochloric acid, then adjusted to pH 10 with sodium carbonate and filtered with suction through kieselguhr. The solution is diluted with water and washed three times with ethyl acetate; the combined organic phases are washed with sodium chloride solution, and then dried over sodium sulphate and chromatographed on 350 g of silica gel using ethyl acetate/toluene mixtures (1:20→1:10) to give 1.98 g of the title compound.

reactant | 6-bromo-3-pyridinecarboxaldehyde | 25.65 mmol, 4.77 g | BrC1=CC=C(C=N1)C=O | C6H4BrNO
reactant | L-valine ethyl ester hydrochloride | 25.65 mmol, 4.66 g | Cl.C(C)OC([C@@H](N)C(C)C)=O
reactant | sodium acetate | 51.3 mmol, 4.24 g | C(C)(=O)[O-].[Na+]
reactant | sodium cyanoborohydride | 51.3 mmol, 3.22 g | C(#N)[BH3-].[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | methanol | 400 ml | CO | CH4O
product | (S)-N-(1-Ethoxycarbonyl-2-methyl-prop-1-yl)-N-(6-bromopyridin-3-ylmethyl)-amine | 1.98 g, Yield: 24% | C(C)OC(=O)[C@H](C(C)C)NCC=1C=NC(=CC1)Br | C13H19BrN2O2
